US08895547B2
N-(2,4-Dimethoxybenzyl)-2-hydroxy-2-methyl-1-phenylpropane-1-sulfonamide
Under inert gas, 2.00 g of N-(2,4-dimethoxybenzyl)-C-phenylmethanesulfonamide were initially charged in 40 ml of THF, and then, at a temperature of −78° C., 9.54 ml of a 1.5 N butyllithium solution in hexane were added dropwise and the mixture was left to stir while cooling with ice for 5 minutes. Subsequently, the reaction solution was cooled again to −78° C. and a solution of 2.01 ml of acetone in 4 ml of THF was added. The mixture was allowed to come to room temperature and stirred for 30 minutes. The reaction solution was admixed with 0.82 ml of acetic acid and 50 ml of ethyl acetate, and washed with 30 ml of a saturated aqueous sodium hydrogencarbonate solution and 30 ml of a saturated aqueous sodium chloride solution, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. The residue (2.67 g) was used in the next reaction without further purification.

reactant | N-(2,4-dimethoxybenzyl)-C-phenylmethanesulfonamide | 2.00 g | COC1=C(CNS(=O)(=O)CC2=CC=CC=C2)C=CC(=C1)OC | C16H19NO4S
reactant | butyllithium | 1.5 N | C(CCC)[Li]
reactant | acetone | 2.01 ml | CC(=O)C | C3H6O
reactant | acetic acid | 0.82 ml | C(C)(=O)O | C2H4O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dimethoxybenzyl)-2-hydroxy-2-methyl-1-phenylpropane-1-sulfonamide | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=CC=C2)C=CC(=C1)OC | C19H25NO5S
